US06265418B1
Ethyl 3-hydroxy-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate.
In 50 ml of methylene chloride was dissolved 2.73 g (8.40 mmol) of ethyl 5-t-butoxycarbonyl-3-hydroxy-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate, and under ice-cooling, 10 ml of CF3CO2H was added to the solution and the mixture was stirred at room temperature for 2 hours.

reactant | ethyl 5-t-butoxycarbonyl-3-hydroxy-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate | 8.40 mmol, 2.73 g | C(C)(C)(C)OC(=O)N1CC=2C(CC1)=NN(C2O)CC(=O)OCC | C15H23N3O5
reactant | CF3CO2H | 10 ml | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-hydroxy-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate | OC=1N(N=C2C1CNCC2)CC(=O)OCC | C10H15N3O3
